US06242449B1
Ethyl 4-{3-[4-(4-ethylphenyl)methylamino-3-hydroxybenzoyl]indol-1-yl}butanoate (39.3 g) was dissolved in N,N-dimethylformamide (200 ml), and potassium carbonate (22.4 g) and chlorobromopropane (24 ml) were added to the solution. The mixture was stirred at room temperature for four hours. The reaction mixture was poured into water, and ethyl acetate was further added for extraction. The formed organic layer was sequentially washed with 1N hydrochloric acid, saturated sodium bicarbonate, and brine, and dried. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=3:1), to thereby obtain 44.8 g of ethyl 4-{3-[3-chloropropoxy-4-(4-ethylphenyl)methylaminobenzoyl]indol-1-yl}butanoate as a yellow oil. MS(m/z): 562(MH+); IR(CHCl3)cm−1:3450, 1730, 1595; NMR(CDCl3)δ:1.21(t, 3H), 1.25(t, 3H), 2.13˜2.36(m, 6H), 2.66(q, 2H), 3.72(t, 2H), 4.10(q, 2H), 4.21˜4.31(m, 4H), 4.43(d, 2H), 5.03(t, 1H), 6.59(d, 1H), 7.08˜7.50(m, 9H), 7.60(s, 1H), 8.31˜8.37(m, 1H).

reactant | Ethyl 4-{3-[4-(4-ethylphenyl)methylamino-3-hydroxybenzoyl]indol-1-yl}butanoate | 39.3 g | C(C)C1=CC=C(C=C1)CNC1=C(C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC)C=C1)O | C30H32N2O4
reactant | potassium carbonate | 22.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | chlorobromopropane | 24 ml | ClC(CC)Br | C3H6BrCl
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4-{3-[3-chloropropoxy-4-(4-ethylphenyl)methylaminobenzoyl]indol-1-yl}butanoate | 44.8 g | ClCCCOC1=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC)C=CC(=C1)NCC1=CC=C(C=C1)CC | C33H37ClN2O4
